US07524841B2
Triethylamine (9 ml) was added to a solution of a trifluoroacetic acid salt of 2-(4-fluoro-piperidin-4-ylmethyl)-isoindole-1,3-dione (22.6 g) in dichloromethane (300 ml). The obtained solution was stirred for 5 minutes, and then 3,5-dichloro-2-hydroxy-benzaldehyde (12.4 g) and NaBH(OAc)3 (19 g) were added and the mixture was stirred at room temperature for 3 hours. The obtained solution was washed with a saturated aqueous solution of sodium hydrogen carbonate, the dichloromethane was concentrated out, and the residue was recrystallized from ether to obtain 2-[1-(3,5-dichloro-2-hydroxy-benzyl)-4-fluoro-piperidin-4-ylmethyl]-isoindole-1,3-dione.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(4-fluoro-piperidin-4-ylmethyl)-isoindole-1,3-dione | 22.6 g | FC1(CCNCC1)CN1C(C2=CC=CC=C2C1=O)=O | C14H15FN2O2
reactant | 3,5-dichloro-2-hydroxy-benzaldehyde | 12.4 g | ClC=1C(=C(C=O)C=C(C1)Cl)O | C7H4Cl2O2
reactant | NaBH(OAc)3 | 19 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | Triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
product | 2-[1-(3,5-dichloro-2-hydroxy-benzyl)-4-fluoro-piperidin-4-ylmethyl]-isoindole-1,3-dione | ClC=1C(=C(CN2CCC(CC2)(F)CN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)Cl)O | C21H19Cl2FN2O3
